US06911543B2
Methyl thieno[3,2-c]pyridine-6-carboxylate (C155) (678 mg, 3.5 mmol) is dissolved in MeOH (16 mL) and H2O (2 mL). 2M NaOH (1.8 mL, 3.6 mmol) is added drop-wise, and the solution stirred at rt. After 2 days (complete disappearance of ester by TLC), the solution is concentrated in vacuo. The residue is dissolved in H2O (12 mL), and the pH is adjusted to 3.5 with 10% HCl. The precipitated solid is removed by filtration, and the solid is rinsed with ether, affording thieno[3,2-c]pyridine-6-carboxylic acid (C160) as a white solid (43% yield). HRMS (FAB) calculated for C8H5NO2S+H: 180.0119, found 180.0123 (M+H).

reactant | Methyl thieno[3,2-c]pyridine-6-carboxylate | 3.5 mmol, 678 mg | S1C=CC=2C=NC(=CC21)C(=O)OC | C9H7NO2S
reactant | NaOH | 3.6 mmol, 2M, 1.8 mL | [OH-].[Na+]
solvent | MeOH | 16 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | thieno[3,2-c]pyridine-6-carboxylic acid | 43% yield | S1C=CC=2C=NC(=CC21)C(=O)O | C8H5NO2S
